US08710080B2
4. (S)-2-Amino-N-(4-fluoro-3-{1-[7-fluoro-1-(2-methoxy-ethyl)-4-trifluoromethoxy-1H-indole-3-carbonyl]-piperidin-4-yl}-benzyl)-3-methyl-butyramide hydrochloride
To a solution of [(S)-1-(4-fluoro-3-{1-[7-fluoro-1-(2-methoxy-ethyl)-4-trifluoromethoxy-1H-indole-3-carbonyl]-piperidin-4-yl}-benzylcarbamoyl)-2-methyl-propyl]-carbamic acid tert-butyl ester (0.35 g, 0.49 mmol) in ether (20 mL) was added 2M HCl in ether (10 mL, 20.0 mmol). The reaction mixture was stirred at rt overnight. The resulting precipitate was collected to give the titled compound (260 mg, 82%). 1H NMR (300 MHz, DMSO-d6) δ 9.0 (m, 1H), 8.3 (bs, 2H), 7.7 (s, 1H), 7.3-7.0 (m, 5H), 4.5 (m, 2H), 4.4-4.2 (m, 2H), 3.7-3.5 (m, 6H), 3.2 (s, 3H), 3.1-2.9 (m, 2H), 2.1 (m, 1H), 1.85-1.5 (m, 4H), 0.9 (m, 6H). MS m/z: [M+H]+=611.

reactant | [(S)-1-(4-fluoro-3-{1-[7-fluoro-1-(2-methoxy-ethyl)-4-trifluoromethoxy-1H-indole-3-carbonyl]-piperidin-4-yl}-benzylcarbamoyl)-2-methyl-propyl]-carbamic acid tert-butyl ester | 0.49 mmol, 0.35 g | C(C)(C)(C)OC(N[C@@H](C(C)C)C(NCC1=CC(=C(C=C1)F)C1CCN(CC1)C(=O)C1=CN(C2=C(C=CC(=C12)OC(F)(F)F)F)CCOC)=O)=O | C35H43F5N4O6
reactant | HCl | 2M | Cl | ClH
solvent | ether | 20 mL | CCOCC | C4H10O
solvent | ether | 20.0 mmol, 10 mL | CCOCC | C4H10O
product | (S)-2-Amino-N-(4-fluoro-3-{1-[7-fluoro-1-(2-methoxy-ethyl)-4-trifluoromethoxy-1H-indole-3-carbonyl]-piperidin-4-yl}-benzyl)-3-methyl-butyramide hydrochloride | 260 mg, 82% | Cl.N[C@H](C(=O)NCC1=CC(=C(C=C1)F)C1CCN(CC1)C(=O)C1=CN(C2=C(C=CC(=C12)OC(F)(F)F)F)CCOC)C(C)C | InChI=1S/C30H35F5N4O4.ClH/c1-17(2)26(36)28(40)37-15-18-4-5-22(31)20(14-18)19-8-10-38(11-9-19)29(41)21-16-39(12-13-42-3)27-23(32)6-7-24(25(21)27)43-30(33,34)35;/h4-7,14,16-17,19,26H,8-13,15,36H2,1-3H3,(H,37,40);1H/t26-;/m0./s1
